US04333730
Preparation of 2-acetylamino-4-aminophenyl γ-aminopropyl ether
0.026 mol (6.5 g) of 2-acetylamino-4-nitrophenyl γ-aminopropyl ether in 32 cm3 of absolute ethanol is reduced on a 10% strength Pd/C catalyst under a hydrogen pressure of 20 bars, at 80° C., for one hour. After filtration and after cooling the filtrate with a solid carbon dioxide bath, the expected product precipitates. The product is filtered off and dried in vacuo over P2O5. It melts at 102°-106° C.

reactant | 2-acetylamino-4-nitrophenyl γ-aminopropyl ether | 0.026 mol, 6.5 g | NCCCOC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C11H15N3O4
solvent | ethanol | 32 cm3 | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-acetylamino-4-aminophenyl γ-aminopropyl ether | NCCCOC1=C(C=C(C=C1)N)NC(C)=O | C11H17N3O2
